US06696418B1
To a solution of 406 mg of CBZ-D-Trp-OH (1.2 mmol), 302 mg of Lys(BOC)-OtBu HCl (1.0 mmol), 202 mg of hydroxybenzotriazole (1.5 mmol) and 366 mg of 4-dimethylaminopyridine (3 mmol) in 60 mL of methylene chloride was added 448 mg (1.5 mmol) of 1,3dimethylaminopropyl-3-ethylcarbodiimide hydrochloride (EDC). After stirring for 3 hours 100 mL more methylene chloride was added to the reaction, and it was washed four times with 25 mL portions of 0.1 N hydrochloric acid solution, twice with 25 mL of 50% saturated sodium bicarbonate solution, once with 50 mL of saturated brine, dried over anhydrous magnesium sulfate, filtered, and the solvent removed under reduced pressure to yield 590 mg (100%) of CBZ-D-Trp-Lys(BOC)-OtBu.

reactant | CBZ-D-Trp-OH | 1.2 mmol, 406 mg | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H18N2O4
reactant | Lys(BOC)-OtBu HCl | 1.0 mmol, 302 mg | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C.Cl
reactant | hydroxybenzotriazole | 1.5 mmol, 202 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1,3dimethylaminopropyl-3-ethylcarbodiimide hydrochloride | 1.5 mmol, 448 mg | Cl.CNC(CCNC)N=C=NCC
catalyst | 4-dimethylaminopyridine | 3 mmol, 366 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | CBZ-D-Trp-Lys(BOC)-OtBu | 590 mg, 100% | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C34H46N4O7
